* sparx_wpd_le - lumped-element equivalent (Ngspice / SPICE3)
* generated by snp2le
* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
* 
* 
.SUBCKT sparx_wpd_le p1 p2 p3
V1 p1 s1 0
R1 s1 0 50
Gd1_1 0 s1 p1 0 -0.007669657999
Fd1_1 0 s1 V1 -0.3834829
Gr1_re_1_1 0 s1 x1_re_a1 0 129748.5137
Gr1_im_1_1 0 s1 x1_im_a1 0 250913.3502
Gr2_1_1 0 s1 x2_a1 0 -0.3404234639
Gr3_re_1_1 0 s1 x3_re_a1 0 34109.80578
Gr3_im_1_1 0 s1 x3_im_a1 0 -6470.860121
Gr4_re_1_1 0 s1 x4_re_a1 0 196997.5065
Gr4_im_1_1 0 s1 x4_im_a1 0 1739.734901
Gd1_2 0 s1 p2 0 0.00497160747
Fd1_2 0 s1 V2 0.2485803735
Gr1_re_1_2 0 s1 x1_re_a2 0 -69609.79796
Gr1_im_1_2 0 s1 x1_im_a2 0 121323.0837
Gr2_1_2 0 s1 x2_a2 0 0.04923818223
Gr3_re_1_2 0 s1 x3_re_a2 0 -280525.0476
Gr3_im_1_2 0 s1 x3_im_a2 0 -354723.551
Gr4_re_1_2 0 s1 x4_re_a2 0 -171003.5522
Gr4_im_1_2 0 s1 x4_im_a2 0 -240342.2212
Gd1_3 0 s1 p3 0 0.004992737632
Fd1_3 0 s1 V3 0.2496368816
Gr1_re_1_3 0 s1 x1_re_a3 0 -67800.02243
Gr1_im_1_3 0 s1 x1_im_a3 0 120088.2561
Gr2_1_3 0 s1 x2_a3 0 0.04798496648
Gr3_re_1_3 0 s1 x3_re_a3 0 -278787.5122
Gr3_im_1_3 0 s1 x3_im_a3 0 -357932.9343
Gr4_re_1_3 0 s1 x4_re_a3 0 -174069.4309
Gr4_im_1_3 0 s1 x4_im_a3 0 -240342.0243
Cx1_re_a1 x1_re_a1 0 1.451019622e-11
Gx1_re_a1 0 x1_re_a1 p1 0 1.402879469e-08
Fx1_re_a1 0 x1_re_a1 V1 7.014397347e-07
Rp1_re_re_a1 0 x1_re_a1 1
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 26.39252881
Cx1_im_a1 x1_im_a1 0 1.451019622e-11
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -26.39252881
Rp1_im_im_a1 0 x1_im_a1 1
Cx2_a1 x2_a1 0 1.37557105e-12
Gx2_a1 0 x2_a1 p1 0 0.006808469278
Fx2_a1 0 x2_a1 V1 0.3404234639
Rp2_a1 0 x2_a1 1
Cx3_re_a1 x3_re_a1 0 8.889736693e-13
Gx3_re_a1 0 x3_re_a1 p1 0 4.36116699e-08
Fx3_re_a1 0 x3_re_a1 V1 2.180583495e-06
Rp3_re_re_a1 0 x3_re_a1 1
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 1.357709544
Cx3_im_a1 x3_im_a1 0 8.889736693e-13
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -1.357709544
Rp3_im_im_a1 0 x3_im_a1 1
Cx4_re_a1 x4_re_a1 0 8.874597887e-13
Gx4_re_a1 0 x4_re_a1 p1 0 4.763378588e-08
Fx4_re_a1 0 x4_re_a1 V1 2.381689294e-06
Rp4_re_re_a1 0 x4_re_a1 1
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 0.8533193141
Cx4_im_a1 x4_im_a1 0 8.874597887e-13
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -0.8533193141
Rp4_im_im_a1 0 x4_im_a1 1
V2 p2 s2 0
R2 s2 0 50
Gd2_1 0 s2 p1 0 0.00497160747
Fd2_1 0 s2 V1 0.2485803735
Gr1_re_2_1 0 s2 x1_re_a1 0 -126072.6871
Gr1_im_2_1 0 s2 x1_im_a1 0 219732.3886
Gr2_2_1 0 s2 x2_a1 0 0.1606490955
Gr3_re_2_1 0 s2 x3_re_a1 0 -416956.4375
Gr3_im_2_1 0 s2 x3_im_a1 0 -527240.8627
Gr4_re_2_1 0 s2 x4_re_a1 0 -270764.5702
Gr4_im_2_1 0 s2 x4_im_a1 0 -380554.4235
Gd2_2 0 s2 p2 0 0.007035372601
Fd2_2 0 s2 V2 0.35176863
Gr1_re_2_2 0 s2 x1_re_a2 0 -121954.8726
Gr1_im_2_2 0 s2 x1_im_a2 0 339502.8153
Gr2_2_2 0 s2 x2_a2 0 -0.9661350737
Gr3_re_2_2 0 s2 x3_re_a2 0 -169962.4671
Gr3_im_2_2 0 s2 x3_im_a2 0 -604590.7871
Gr4_re_2_2 0 s2 x4_re_a2 0 95106.39466
Gr4_im_2_2 0 s2 x4_im_a2 0 142769.6297
Gd2_3 0 s2 p3 0 -0.003825247673
Fd2_3 0 s2 V3 -0.1912623836
Gr1_re_2_3 0 s2 x1_re_a3 0 217020.9414
Gr1_im_2_3 0 s2 x1_im_a3 0 -492068.756
Gr2_2_3 0 s2 x2_a3 0 1.110697412
Gr3_re_2_3 0 s2 x3_re_a3 0 723712.21
Gr3_im_2_3 0 s2 x3_im_a3 0 677147.938
Gr4_re_2_3 0 s2 x4_re_a3 0 -571583.1587
Gr4_im_2_3 0 s2 x4_im_a3 0 -460065.8224
Cx1_re_a2 x1_re_a2 0 1.451019622e-11
Gx1_re_a2 0 x1_re_a2 p2 0 2.540803013e-08
Fx1_re_a2 0 x1_re_a2 V2 1.270401507e-06
Rp1_re_re_a2 0 x1_re_a2 1
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 26.39252881
Cx1_im_a2 x1_im_a2 0 1.451019622e-11
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -26.39252881
Rp1_im_im_a2 0 x1_im_a2 1
Cx2_a2 x2_a2 0 1.37557105e-12
Gx2_a2 0 x2_a2 p2 0 0.02221394824
Fx2_a2 0 x2_a2 V2 1.110697412
Rp2_a2 0 x2_a2 1
Cx3_re_a2 x3_re_a2 0 8.889736693e-13
Gx3_re_a2 0 x3_re_a2 p2 0 6.482189976e-08
Fx3_re_a2 0 x3_re_a2 V2 3.241094988e-06
Rp3_re_re_a2 0 x3_re_a2 1
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 1.357709544
Cx3_im_a2 x3_im_a2 0 8.889736693e-13
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -1.357709544
Rp3_im_im_a2 0 x3_im_a2 1
Cx4_re_a2 x4_re_a2 0 8.874597887e-13
Gx4_re_a2 0 x4_re_a2 p2 0 7.542265288e-08
Fx4_re_a2 0 x4_re_a2 V2 3.771132644e-06
Rp4_re_re_a2 0 x4_re_a2 1
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 0.8533193141
Cx4_im_a2 x4_im_a2 0 8.874597887e-13
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -0.8533193141
Rp4_im_im_a2 0 x4_im_a2 1
V3 p3 s3 0
R3 s3 0 50
Gd3_1 0 s3 p1 0 0.004992737632
Fd3_1 0 s3 V1 0.2496368816
Gr1_re_3_1 0 s3 x1_re_a1 0 -122794.9407
Gr1_im_3_1 0 s3 x1_im_a1 0 217495.95
Gr2_3_1 0 s3 x2_a1 0 0.1565602367
Gr3_re_3_1 0 s3 x3_re_a1 0 -414373.8639
Gr3_im_3_1 0 s3 x3_im_a1 0 -532011.1071
Gr4_re_3_1 0 s3 x4_re_a1 0 -275619.0384
Gr4_im_3_1 0 s3 x4_im_a1 0 -380554.1116
Gd3_2 0 s3 p2 0 -0.003825247673
Fd3_2 0 s3 V2 -0.1912623836
Gr1_re_3_2 0 s3 x1_re_a2 0 217020.9414
Gr1_im_3_2 0 s3 x1_im_a2 0 -492068.756
Gr2_3_2 0 s3 x2_a2 0 1.110697412
Gr3_re_3_2 0 s3 x3_re_a2 0 723712.21
Gr3_im_3_2 0 s3 x3_im_a2 0 677147.938
Gr4_re_3_2 0 s3 x4_re_a2 0 -571583.1587
Gr4_im_3_2 0 s3 x4_im_a2 0 -460065.8224
Gd3_3 0 s3 p3 0 0.007061624135
Fd3_3 0 s3 V3 0.3530812068
Gr1_re_3_3 0 s3 x1_re_a3 0 -122482.5485
Gr1_im_3_3 0 s3 x1_im_a3 0 340531.9266
Gr2_3_3 0 s3 x2_a3 0 -0.9662463091
Gr3_re_3_3 0 s3 x3_re_a3 0 -169151.2646
Gr3_im_3_3 0 s3 x3_im_a3 0 -604669.5625
Gr4_re_3_3 0 s3 x4_re_a3 0 94022.44537
Gr4_im_3_3 0 s3 x4_im_a3 0 142687.2495
Cx1_re_a3 x1_re_a3 0 1.451019622e-11
Gx1_re_a3 0 x1_re_a3 p3 0 2.540803013e-08
Fx1_re_a3 0 x1_re_a3 V3 1.270401507e-06
Rp1_re_re_a3 0 x1_re_a3 1
Gp1_re_im_a3 0 x1_re_a3 x1_im_a3 0 26.39252881
Cx1_im_a3 x1_im_a3 0 1.451019622e-11
Gp1_im_re_a3 0 x1_im_a3 x1_re_a3 0 -26.39252881
Rp1_im_im_a3 0 x1_im_a3 1
Cx2_a3 x2_a3 0 1.37557105e-12
Gx2_a3 0 x2_a3 p3 0 0.02221394824
Fx2_a3 0 x2_a3 V3 1.110697412
Rp2_a3 0 x2_a3 1
Cx3_re_a3 x3_re_a3 0 8.889736693e-13
Gx3_re_a3 0 x3_re_a3 p3 0 6.482189976e-08
Fx3_re_a3 0 x3_re_a3 V3 3.241094988e-06
Rp3_re_re_a3 0 x3_re_a3 1
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 1.357709544
Cx3_im_a3 x3_im_a3 0 8.889736693e-13
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -1.357709544
Rp3_im_im_a3 0 x3_im_a3 1
Cx4_re_a3 x4_re_a3 0 8.874597887e-13
Gx4_re_a3 0 x4_re_a3 p3 0 7.542265288e-08
Fx4_re_a3 0 x4_re_a3 V3 3.771132644e-06
Rp4_re_re_a3 0 x4_re_a3 1
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 0.8533193141
Cx4_im_a3 x4_im_a3 0 8.874597887e-13
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -0.8533193141
Rp4_im_im_a3 0 x4_im_a3 1
.ENDS sparx_wpd_le
