* sparx_wpd_le - lumped-element equivalent (Ngspice / SPICE3)
* generated by snp2le
* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
* 
* 
.SUBCKT sparx_wpd_le p1 p2 p3
V1 p1 s1 0
R1 s1 0 50
Gd1_1 0 s1 p1 0 -0.007667591319
Fd1_1 0 s1 V1 -0.383379566
Gr1_re_1_1 0 s1 x1_re_a1 0 130828.5571
Gr1_im_1_1 0 s1 x1_im_a1 0 250779.7235
Gr2_1_1 0 s1 x2_a1 0 -0.3403595287
Gr3_re_1_1 0 s1 x3_re_a1 0 35039.74878
Gr3_im_1_1 0 s1 x3_im_a1 0 -6697.058611
Gr4_re_1_1 0 s1 x4_re_a1 0 196515.7385
Gr4_im_1_1 0 s1 x4_im_a1 0 1245.228265
Gd1_2 0 s1 p2 0 0.004979468285
Fd1_2 0 s1 V2 0.2489734142
Gr1_re_1_2 0 s1 x1_re_a2 0 -69725.38516
Gr1_im_1_2 0 s1 x1_im_a2 0 121669.3322
Gr2_1_2 0 s1 x2_a2 0 0.04922073975
Gr3_re_1_2 0 s1 x3_re_a2 0 -280227.7676
Gr3_im_1_2 0 s1 x3_im_a2 0 -358893.4055
Gr4_re_1_2 0 s1 x4_re_a2 0 -172455.3819
Gr4_im_1_2 0 s1 x4_im_a2 0 -238116.4465
Gd1_3 0 s1 p3 0 0.004991842872
Fd1_3 0 s1 V3 0.2495921436
Gr1_re_1_3 0 s1 x1_re_a3 0 -68974.48121
Gr1_im_1_3 0 s1 x1_im_a3 0 121220.0497
Gr2_1_3 0 s1 x2_a3 0 0.04811936913
Gr3_re_1_3 0 s1 x3_re_a3 0 -278132.008
Gr3_im_1_3 0 s1 x3_im_a3 0 -361326.2228
Gr4_re_1_3 0 s1 x4_re_a3 0 -175298.6822
Gr4_im_1_3 0 s1 x4_im_a3 0 -238411.8283
Cx1_re_a1 x1_re_a1 0 1.428110947e-11
Gx1_re_a1 0 x1_re_a1 p1 0 1.406874618e-08
Fx1_re_a1 0 x1_re_a1 V1 7.034373089e-07
Rp1_re_re_a1 0 x1_re_a1 1
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 26.00273543
Cx1_im_a1 x1_im_a1 0 1.428110947e-11
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -26.00273543
Rp1_im_im_a1 0 x1_im_a1 1
Cx2_a1 x2_a1 0 1.374001847e-12
Gx2_a1 0 x2_a1 p1 0 0.006807190574
Fx2_a1 0 x2_a1 V1 0.3403595287
Rp2_a1 0 x2_a1 1
Cx3_re_a1 x3_re_a1 0 8.876814165e-13
Gx3_re_a1 0 x3_re_a1 p1 0 4.376848249e-08
Fx3_re_a1 0 x3_re_a1 V1 2.188424124e-06
Rp3_re_re_a1 0 x3_re_a1 1
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 1.353398425
Cx3_im_a1 x3_im_a1 0 8.876814165e-13
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -1.353398425
Rp3_im_im_a1 0 x3_im_a1 1
Cx4_re_a1 x4_re_a1 0 8.894854744e-13
Gx4_re_a1 0 x4_re_a1 p1 0 4.752942489e-08
Fx4_re_a1 0 x4_re_a1 V1 2.376471245e-06
Rp4_re_re_a1 0 x4_re_a1 1
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 0.8552715294
Cx4_im_a1 x4_im_a1 0 8.894854744e-13
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -0.8552715294
Rp4_im_im_a1 0 x4_im_a1 1
V2 p2 s2 0
R2 s2 0 50
Gd2_1 0 s2 p1 0 0.004979468285
Fd2_1 0 s2 V1 0.2489734142
Gr1_re_2_1 0 s2 x1_re_a1 0 -125613.9929
Gr1_im_2_1 0 s2 x1_im_a1 0 219193.7784
Gr2_2_1 0 s2 x2_a1 0 0.1609477373
Gr3_re_2_1 0 s2 x3_re_a1 0 -415547.6906
Gr3_im_2_1 0 s2 x3_im_a1 0 -532200.3851
Gr4_re_2_1 0 s2 x4_re_a1 0 -272606.5233
Gr4_im_2_1 0 s2 x4_im_a1 0 -376399.3673
Gd2_2 0 s2 p2 0 0.007045908317
Fd2_2 0 s2 V2 0.3522954159
Gr1_re_2_2 0 s2 x1_re_a2 0 -121649.3643
Gr1_im_2_2 0 s2 x1_im_a2 0 340932.6313
Gr2_2_2 0 s2 x2_a2 0 -0.96785455
Gr3_re_2_2 0 s2 x3_re_a2 0 -165106.5307
Gr3_im_2_2 0 s2 x3_im_a2 0 -607625.9963
Gr4_re_2_2 0 s2 x4_re_a2 0 91484.34749
Gr4_im_2_2 0 s2 x4_im_a2 0 142384.6464
Gd2_3 0 s2 p3 0 -0.003867254507
Fd2_3 0 s2 V3 -0.1933627254
Gr1_re_2_3 0 s2 x1_re_a3 0 215145.5524
Gr1_im_2_3 0 s2 x1_im_a3 0 -494944.8341
Gr2_2_3 0 s2 x2_a3 0 1.112947434
Gr3_re_2_3 0 s2 x3_re_a3 0 716970.5872
Gr3_im_2_3 0 s2 x3_im_a3 0 682885.8796
Gr4_re_2_3 0 s2 x4_re_a3 0 -567904.5688
Gr4_im_2_3 0 s2 x4_im_a3 0 -459482.5835
Cx1_re_a2 x1_re_a2 0 1.428110947e-11
Gx1_re_a2 0 x1_re_a2 p2 0 2.534559512e-08
Fx1_re_a2 0 x1_re_a2 V2 1.267279756e-06
Rp1_re_re_a2 0 x1_re_a2 1
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 26.00273543
Cx1_im_a2 x1_im_a2 0 1.428110947e-11
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -26.00273543
Rp1_im_im_a2 0 x1_im_a2 1
Cx2_a2 x2_a2 0 1.374001847e-12
Gx2_a2 0 x2_a2 p2 0 0.02225894868
Fx2_a2 0 x2_a2 V2 1.112947434
Rp2_a2 0 x2_a2 1
Cx3_re_a2 x3_re_a2 0 8.876814165e-13
Gx3_re_a2 0 x3_re_a2 p2 0 6.490396e-08
Fx3_re_a2 0 x3_re_a2 V2 3.245198e-06
Rp3_re_re_a2 0 x3_re_a2 1
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 1.353398425
Cx3_im_a2 x3_im_a2 0 8.876814165e-13
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -1.353398425
Rp3_im_im_a2 0 x3_im_a2 1
Cx4_re_a2 x4_re_a2 0 8.894854744e-13
Gx4_re_a2 0 x4_re_a2 p2 0 7.513149855e-08
Fx4_re_a2 0 x4_re_a2 V2 3.756574927e-06
Rp4_re_re_a2 0 x4_re_a2 1
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 0.8552715294
Cx4_im_a2 x4_im_a2 0 8.894854744e-13
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -0.8552715294
Rp4_im_im_a2 0 x4_im_a2 1
V3 p3 s3 0
R3 s3 0 50
Gd3_1 0 s3 p1 0 0.004991842872
Fd3_1 0 s3 V1 0.2495921436
Gr1_re_3_1 0 s3 x1_re_a1 0 -124261.1994
Gr1_im_3_1 0 s3 x1_im_a1 0 218384.3721
Gr2_3_1 0 s3 x2_a1 0 0.1573463467
Gr3_re_3_1 0 s3 x3_re_a1 0 -412439.9041
Gr3_im_3_1 0 s3 x3_im_a1 0 -535807.992
Gr4_re_3_1 0 s3 x4_re_a1 0 -277101.0319
Gr4_im_3_1 0 s3 x4_im_a1 0 -376866.288
Gd3_2 0 s3 p2 0 -0.003867254507
Fd3_2 0 s3 V2 -0.1933627254
Gr1_re_3_2 0 s3 x1_re_a2 0 215145.5524
Gr1_im_3_2 0 s3 x1_im_a2 0 -494944.8341
Gr2_3_2 0 s3 x2_a2 0 1.112947434
Gr3_re_3_2 0 s3 x3_re_a2 0 716970.5872
Gr3_im_3_2 0 s3 x3_im_a2 0 682885.8796
Gr4_re_3_2 0 s3 x4_re_a2 0 -567904.5688
Gr4_im_3_2 0 s3 x4_im_a2 0 -459482.5835
Gd3_3 0 s3 p3 0 0.007086011531
Fd3_3 0 s3 V3 0.3543005766
Gr1_re_3_3 0 s3 x1_re_a3 0 -120567.4058
Gr1_im_3_3 0 s3 x1_im_a3 0 340364.0586
Gr2_3_3 0 s3 x2_a3 0 -0.9679894305
Gr3_re_3_3 0 s3 x3_re_a3 0 -164857.7882
Gr3_im_3_3 0 s3 x3_im_a3 0 -609141.7395
Gr4_re_3_3 0 s3 x4_re_a3 0 89958.99809
Gr4_im_3_3 0 s3 x4_im_a3 0 143040.9646
Cx1_re_a3 x1_re_a3 0 1.428110947e-11
Gx1_re_a3 0 x1_re_a3 p3 0 2.534559512e-08
Fx1_re_a3 0 x1_re_a3 V3 1.267279756e-06
Rp1_re_re_a3 0 x1_re_a3 1
Gp1_re_im_a3 0 x1_re_a3 x1_im_a3 0 26.00273543
Cx1_im_a3 x1_im_a3 0 1.428110947e-11
Gp1_im_re_a3 0 x1_im_a3 x1_re_a3 0 -26.00273543
Rp1_im_im_a3 0 x1_im_a3 1
Cx2_a3 x2_a3 0 1.374001847e-12
Gx2_a3 0 x2_a3 p3 0 0.02225894868
Fx2_a3 0 x2_a3 V3 1.112947434
Rp2_a3 0 x2_a3 1
Cx3_re_a3 x3_re_a3 0 8.876814165e-13
Gx3_re_a3 0 x3_re_a3 p3 0 6.490396e-08
Fx3_re_a3 0 x3_re_a3 V3 3.245198e-06
Rp3_re_re_a3 0 x3_re_a3 1
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 1.353398425
Cx3_im_a3 x3_im_a3 0 8.876814165e-13
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -1.353398425
Rp3_im_im_a3 0 x3_im_a3 1
Cx4_re_a3 x4_re_a3 0 8.894854744e-13
Gx4_re_a3 0 x4_re_a3 p3 0 7.513149855e-08
Fx4_re_a3 0 x4_re_a3 V3 3.756574927e-06
Rp4_re_re_a3 0 x4_re_a3 1
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 0.8552715294
Cx4_im_a3 x4_im_a3 0 8.894854744e-13
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -0.8552715294
Rp4_im_im_a3 0 x4_im_a3 1
.ENDS sparx_wpd_le
