* sparx_wpd_le - lumped-element equivalent (Ngspice / SPICE3)
* generated by snp2le
* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
* 
* 
.SUBCKT sparx_wpd_le p1 p2 p3
V1 p1 s1 0
R1 s1 0 50 noisy=0
Gd1_1 0 s1 p1 0 -0.007667604072
Fd1_1 0 s1 V1 -0.3833802036
Gr1_re_1_1 0 s1 x1_re_a1 0 130827.903
Gr1_im_1_1 0 s1 x1_im_a1 0 250782.2041
Gr2_1_1 0 s1 x2_a1 0 -0.3403615013
Gr3_re_1_1 0 s1 x3_re_a1 0 35040.15318
Gr3_im_1_1 0 s1 x3_im_a1 0 -6694.882277
Gr4_re_1_1 0 s1 x4_re_a1 0 196515.2343
Gr4_im_1_1 0 s1 x4_im_a1 0 1242.551532
Gd1_2 0 s1 p2 0 0.004979483314
Fd1_2 0 s1 V2 0.2489741657
Gr1_re_1_2 0 s1 x1_re_a2 0 -69724.03465
Gr1_im_1_2 0 s1 x1_im_a2 0 121672.5107
Gr2_1_2 0 s1 x2_a2 0 0.04921983966
Gr3_re_1_2 0 s1 x3_re_a2 0 -280218.6904
Gr3_im_1_2 0 s1 x3_im_a2 0 -358898.7066
Gr4_re_1_2 0 s1 x4_re_a2 0 -172462.593
Gr4_im_1_2 0 s1 x4_im_a2 0 -238114.2741
Gd1_3 0 s1 p3 0 0.00499185723
Fd1_3 0 s1 V3 0.2495928615
Gr1_re_1_3 0 s1 x1_re_a3 0 -68973.4708
Gr1_im_1_3 0 s1 x1_im_a3 0 121222.6823
Gr2_1_3 0 s1 x2_a3 0 0.04811864593
Gr3_re_1_3 0 s1 x3_re_a3 0 -278123.1971
Gr3_im_1_3 0 s1 x3_im_a3 0 -361331.2517
Gr4_re_1_3 0 s1 x4_re_a3 0 -175305.5806
Gr4_im_1_3 0 s1 x4_im_a3 0 -238409.5415
Cx1_re_a1 x1_re_a1 0 1.428106935e-11
Gx1_re_a1 0 x1_re_a1 p1 0 1.406876159e-08
Fx1_re_a1 0 x1_re_a1 V1 7.034380793e-07
Rp1_re_re_a1 0 x1_re_a1 1 noisy=0
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 26.00269748
Cx1_im_a1 x1_im_a1 0 1.428106935e-11
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -26.00269748
Rp1_im_im_a1 0 x1_im_a1 1 noisy=0
Cx2_a1 x2_a1 0 1.373999553e-12
Gx2_a1 0 x2_a1 p1 0 0.006807230025
Fx2_a1 0 x2_a1 V1 0.3403615013
Rp2_a1 0 x2_a1 1 noisy=0
Cx3_re_a1 x3_re_a1 0 8.876811616e-13
Gx3_re_a1 0 x3_re_a1 p1 0 4.376855181e-08
Fx3_re_a1 0 x3_re_a1 V1 2.188427591e-06
Rp3_re_re_a1 0 x3_re_a1 1 noisy=0
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 1.353391809
Cx3_im_a1 x3_im_a1 0 8.876811616e-13
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -1.353391809
Rp3_im_im_a1 0 x3_im_a1 1 noisy=0
Cx4_re_a1 x4_re_a1 0 8.894836628e-13
Gx4_re_a1 0 x4_re_a1 p1 0 4.752972272e-08
Fx4_re_a1 0 x4_re_a1 V1 2.376486136e-06
Rp4_re_re_a1 0 x4_re_a1 1 noisy=0
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 0.8552729471
Cx4_im_a1 x4_im_a1 0 8.894836628e-13
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -0.8552729471
Rp4_im_im_a1 0 x4_im_a1 1 noisy=0
V2 p2 s2 0
R2 s2 0 50 noisy=0
Gd2_1 0 s2 p1 0 0.004979483314
Fd2_1 0 s2 V1 0.2489741657
Gr1_re_2_1 0 s2 x1_re_a1 0 -125612.429
Gr1_im_2_1 0 s2 x1_im_a1 0 219201.0214
Gr2_2_1 0 s2 x2_a1 0 0.1609443581
Gr3_re_2_1 0 s2 x3_re_a1 0 -415536.8146
Gr3_im_2_1 0 s2 x3_im_a1 0 -532211.5563
Gr4_re_2_1 0 s2 x4_re_a1 0 -272616.581
Gr4_im_2_1 0 s2 x4_im_a1 0 -376394.0816
Gd2_2 0 s2 p2 0 0.007045905524
Fd2_2 0 s2 V2 0.3522952762
Gr1_re_2_2 0 s2 x1_re_a2 0 -121651.4013
Gr1_im_2_2 0 s2 x1_im_a2 0 340933.8266
Gr2_2_2 0 s2 x2_a2 0 -0.9678562964
Gr3_re_2_2 0 s2 x3_re_a2 0 -165097.7767
Gr3_im_2_2 0 s2 x3_im_a2 0 -607630.0578
Gr4_re_2_2 0 s2 x4_re_a2 0 91478.48783
Gr4_im_2_2 0 s2 x4_im_a2 0 142386.554
Gd2_3 0 s2 p3 0 -0.003867238092
Fd2_3 0 s2 V3 -0.1933619046
Gr1_re_2_3 0 s2 x1_re_a3 0 215147.0898
Gr1_im_2_3 0 s2 x1_im_a3 0 -494950.5678
Gr2_2_3 0 s2 x2_a3 0 1.11295087
Gr3_re_2_3 0 s2 x3_re_a3 0 716964.4556
Gr3_im_2_3 0 s2 x3_im_a3 0 682896.0931
Gr4_re_2_3 0 s2 x4_re_a3 0 -567904.0139
Gr4_im_2_3 0 s2 x4_im_a3 0 -459487.665
Cx1_re_a2 x1_re_a2 0 1.428106935e-11
Gx1_re_a2 0 x1_re_a2 p2 0 2.534579826e-08
Fx1_re_a2 0 x1_re_a2 V2 1.267289913e-06
Rp1_re_re_a2 0 x1_re_a2 1 noisy=0
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 26.00269748
Cx1_im_a2 x1_im_a2 0 1.428106935e-11
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -26.00269748
Rp1_im_im_a2 0 x1_im_a2 1 noisy=0
Cx2_a2 x2_a2 0 1.373999553e-12
Gx2_a2 0 x2_a2 p2 0 0.02225901739
Fx2_a2 0 x2_a2 V2 1.11295087
Rp2_a2 0 x2_a2 1 noisy=0
Cx3_re_a2 x3_re_a2 0 8.876811616e-13
Gx3_re_a2 0 x3_re_a2 p2 0 6.490446649e-08
Fx3_re_a2 0 x3_re_a2 V2 3.245223325e-06
Rp3_re_re_a2 0 x3_re_a2 1 noisy=0
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 1.353391809
Cx3_im_a2 x3_im_a2 0 8.876811616e-13
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -1.353391809
Rp3_im_im_a2 0 x3_im_a2 1 noisy=0
Cx4_re_a2 x4_re_a2 0 8.894836628e-13
Gx4_re_a2 0 x4_re_a2 p2 0 7.513159973e-08
Fx4_re_a2 0 x4_re_a2 V2 3.756579986e-06
Rp4_re_re_a2 0 x4_re_a2 1 noisy=0
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 0.8552729471
Cx4_im_a2 x4_im_a2 0 8.894836628e-13
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -0.8552729471
Rp4_im_im_a2 0 x4_im_a2 1 noisy=0
V3 p3 s3 0
R3 s3 0 50 noisy=0
Gd3_1 0 s3 p1 0 0.00499185723
Fd3_1 0 s3 V1 0.2495928615
Gr1_re_3_1 0 s3 x1_re_a1 0 -124260.2389
Gr1_im_3_1 0 s3 x1_im_a1 0 218390.6259
Gr2_3_1 0 s3 x2_a1 0 0.1573435557
Gr3_re_3_1 0 s3 x3_re_a1 0 -412429.4038
Gr3_im_3_1 0 s3 x3_im_a1 0 -535818.782
Gr4_re_3_1 0 s3 x4_re_a1 0 -277110.5733
Gr4_im_3_1 0 s3 x4_im_a1 0 -376860.8192
Gd3_2 0 s3 p2 0 -0.003867238092
Fd3_2 0 s3 V2 -0.1933619046
Gr1_re_3_2 0 s3 x1_re_a2 0 215147.0898
Gr1_im_3_2 0 s3 x1_im_a2 0 -494950.5678
Gr2_3_2 0 s3 x2_a2 0 1.11295087
Gr3_re_3_2 0 s3 x3_re_a2 0 716964.4556
Gr3_im_3_2 0 s3 x3_im_a2 0 682896.0931
Gr4_re_3_2 0 s3 x4_re_a2 0 -567904.0139
Gr4_im_3_2 0 s3 x4_im_a2 0 -459487.665
Gd3_3 0 s3 p3 0 0.007086008055
Fd3_3 0 s3 V3 0.3543004027
Gr1_re_3_3 0 s3 x1_re_a3 0 -120569.3545
Gr1_im_3_3 0 s3 x1_im_a3 0 340365.6154
Gr2_3_3 0 s3 x2_a3 0 -0.9679916071
Gr3_re_3_3 0 s3 x3_re_a3 0 -164848.3744
Gr3_im_3_3 0 s3 x3_im_a3 0 -609146.0227
Gr4_re_3_3 0 s3 x4_re_a3 0 89952.54575
Gr4_im_3_3 0 s3 x4_im_a3 0 143042.5122
Cx1_re_a3 x1_re_a3 0 1.428106935e-11
Gx1_re_a3 0 x1_re_a3 p3 0 2.534579826e-08
Fx1_re_a3 0 x1_re_a3 V3 1.267289913e-06
Rp1_re_re_a3 0 x1_re_a3 1 noisy=0
Gp1_re_im_a3 0 x1_re_a3 x1_im_a3 0 26.00269748
Cx1_im_a3 x1_im_a3 0 1.428106935e-11
Gp1_im_re_a3 0 x1_im_a3 x1_re_a3 0 -26.00269748
Rp1_im_im_a3 0 x1_im_a3 1 noisy=0
Cx2_a3 x2_a3 0 1.373999553e-12
Gx2_a3 0 x2_a3 p3 0 0.02225901739
Fx2_a3 0 x2_a3 V3 1.11295087
Rp2_a3 0 x2_a3 1 noisy=0
Cx3_re_a3 x3_re_a3 0 8.876811616e-13
Gx3_re_a3 0 x3_re_a3 p3 0 6.490446649e-08
Fx3_re_a3 0 x3_re_a3 V3 3.245223325e-06
Rp3_re_re_a3 0 x3_re_a3 1 noisy=0
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 1.353391809
Cx3_im_a3 x3_im_a3 0 8.876811616e-13
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -1.353391809
Rp3_im_im_a3 0 x3_im_a3 1 noisy=0
Cx4_re_a3 x4_re_a3 0 8.894836628e-13
Gx4_re_a3 0 x4_re_a3 p3 0 7.513159973e-08
Fx4_re_a3 0 x4_re_a3 V3 3.756579986e-06
Rp4_re_re_a3 0 x4_re_a3 1 noisy=0
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 0.8552729471
Cx4_im_a3 x4_im_a3 0 8.894836628e-13
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -0.8552729471
Rp4_im_im_a3 0 x4_im_a3 1 noisy=0
.ENDS sparx_wpd_le
